Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=[CH:1][c:2]1[c:3]([CH3:4])[cH:5][cH:6][c:7]2[cH:8][cH:9][c:10]([Cl:11])[cH:12][c:13]12.[CH3:14][O:15][c:16]1[cH:17][c:18]([OH:19])[c:20]2[c:21]([c:22]1[C:23]([NH2:24])=[O:25])[O:26][C:27]1=[CH:28][C:29]([OH:30])=[C:31]([C:32]([CH3:33])=[O:34])[C:35](=[O:36])[C@@:37]21[CH3:38]>>[CH2:1]([c:2]1[c:3]([CH3:4])[cH:5][cH:6][c:7]2[cH:8][cH:9][c:10]([Cl:11])[cH:12][c:13]12)[NH:24][C:23]([c:22]1[c:16]([O:15][CH3:14])[cH:17][c:18]([OH:19])[c:20]2[c:21]1[O:26][C:27]1=[CH:28][C:29]([OH:30])=[C:31]([C:32]([CH3:33])=[O:34])[C:35](=[O:36])[C@@:37]21[CH3:38])=[O:25],[CH3:14][O:15][c:16]1[cH:17][c:18]([OH:19])[c:20]2[c:21]([c:22]1[C:23]([NH2:24])=[O:25])[O:26][C:27]1=[CH:28][C:29]([OH:30])=[C:31]([C:32]([CH3:33])=[O:34])[C:35](=[O:36])[C@@:37]21[CH3:38].[O:101]=[CH:1][c:2]1[c:3]([CH3:4])[cH:5][cH:6][c:7]2[cH:8][cH:9][c:10]([Cl:11])[cH:12][c:13]12.[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([c:2]1[c:3]([CH3:4])[cH:5][cH:6][c:7]2[cH:8][cH:9][c:10]([Cl:11])[cH:12][c:13]12)[NH:24][C:23]([c:22]1[c:16]([O:15][CH3:14])[cH:17][c:18]([OH:19])[c:20]2[c:21]1[O:26][C:27]1=[CH:28][C:29]([OH:30])=[C:31]([C:32]([CH3:33])=[O:34])[C:35](=[O:36])[C@@:37]21[CH3:38])=[O:25],reductive_amination,"[(24, 1), ([1, 101], 301), (101, 24.1), ([24.1, 24], 24), (24, [24, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 24], 24)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1]([c:2]1[c:3]2[cH:4][cH:5][c:6]([O:7][c:8]3[cH:9][cH:10][c:11]([O:12][CH3:13])[n:14][cH:15]3)[cH:16][c:17]2[cH:18][cH:19][cH:20]1)=[O:21].[NH2:22][c:23]1[cH:24][cH:25][c:26]([F:27])[c:28]([Cl:29])[cH:30]1>>[C:1]([c:2]1[c:3]2[cH:4][cH:5][c:6]([O:7][c:8]3[cH:9][cH:10][c:11]([O:12][CH3:13])[n:14][cH:15]3)[cH:16][c:17]2[cH:18][cH:19][cH:20]1)(=[O:21])[NH:22][c:23]1[cH:24][cH:25][c:26]([F:27])[c:28]([Cl:29])[cH:30]1,[Cl:101][C:1]([c:2]1[c:3]2[cH:4][cH:5][c:6]([O:7][c:8]3[cH:9][cH:10][c:11]([O:12][CH3:13])[n:14][cH:15]3)[cH:16][c:17]2[cH:18][cH:19][cH:20]1)=[O:21].[NH2:22][c:23]1[cH:24][cH:25][c:26]([F:27])[c:28]([Cl:29])[cH:30]1>>[C:1]([c:2]1[c:3]2[cH:4][cH:5][c:6]([O:7][c:8]3[cH:9][cH:10][c:11]([O:12][CH3:13])[n:14][cH:15]3)[cH:16][c:17]2[cH:18][cH:19][cH:20]1)(=[O:21])[NH:22][c:23]1[cH:24][cH:25][c:26]([F:27])[c:28]([Cl:29])[cH:30]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(22, 1), ([1, 21], 21), (21, [21, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])OC(OC(C)(C)C)=O.[CH3:8][N:9]([CH2:10][c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)[CH:17]1[CH2:18][C@@H:19]2[CH2:20][NH:21][CH2:22][CH2:23][C@@H:24]2[CH2:25]1>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[N:21]1[CH2:20][C@H:19]2[CH2:18][CH:17]([N:9]([CH3:8])[CH2:10][c:11]3[cH:12][cH:13][cH:14][cH:15][cH:16]3)[CH2:25][C@H:24]2[CH2:23][CH2:22]1,[CH3:8][N:9]([CH2:10][c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)[CH:17]1[CH2:18][C@@H:19]2[CH2:20][NH:21][CH2:22][CH2:23][C@@H:24]2[CH2:25]1.CC(C)(C)[O:202][C:201](=O)[O:101][C:6]([O:5][C:2]([CH3:1])([CH3:3])[CH3:4])=[O:7]>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[N:21]1[CH2:20][C@H:19]2[CH2:18][CH:17]([N:9]([CH3:8])[CH2:10][c:11]3[cH:12][cH:13][cH:14][cH:15][cH:16]3)[CH2:25][C@H:24]2[CH2:23][CH2:22]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(21, 6), ([6, 7], 7), (7, [7, 6]), ([6, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CCO[C:1](=[O:2])[c:3]1[cH:4][nH:5][c:6]2[cH:7][cH:8][c:9]([O:10][CH2:11][CH3:12])[n:13][c:14]2[c:15]1=[O:16].[NH2:21][CH2:22][c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[C:1](=[O:2])([c:3]1[cH:4][nH:5][c:6]2[cH:7][cH:8][c:9]([O:10][CH2:11][CH3:12])[n:13][c:14]2[c:15]1=[O:16])[NH:21][CH2:22][c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,CC[O:101][C:1](=[O:2])[c:3]1[cH:4][nH:5][c:6]2[cH:7][cH:8][c:9]([O:10][CH2:11][CH3:12])[n:13][c:14]2[c:15]1=[O:16].[NH2:21][CH2:22][c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[C:1](=[O:2])([c:3]1[cH:4][nH:5][c:6]2[cH:7][cH:8][c:9]([O:10][CH2:11][CH3:12])[n:13][c:14]2[c:15]1=[O:16])[NH:21][CH2:22][c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(21, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
